US07977327B2
(3S,4S)-1-Benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-cyclopropylpyrrolidine
An excessive amount of a solution of diazomethane in diethyl ether (30 mL) was added to (3S,4S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-vinylpyrrolidine (270 mg, 779 mmol). Under cooling with ice, palladium acetate (10 mg) was added thereto, followed by stirring at room temperature for 2 hours. After completion of reaction, insoluble matter was removed through filtration. The filtrate was concentrated under reduced pressure, and the obtained residue was purified though silica gel column chromatography (ethyl acetate:n-hexane=1:9 to 1:4), to thereby yield the title compound as a colorless oily substance (269 mg, 96%).

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | (3S,4S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-vinylpyrrolidine | 779 mmol, 270 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)C=C)NC(=O)OC(C)(C)C | C19H26N2O4
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
catalyst | palladium acetate | 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3S,4S)-1-Benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-cyclopropylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)C1CC1)NC(=O)OC(C)(C)C | C20H28N2O4
